US07282605B2
Methyl 2-allyloctanoate
A solution of 0.218 g (0.5 mmol) of N-phenyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine in 2 ml of methanol was cooled to 0° C., 0.38 g (1.0 mmol) of LiOMe was added, and the mixture was stirred for 22 hours. The reaction was terminated by addition of 2 ml of 1 N hydrochloric acid, and the product was extracted with ethyl acetate (30 ml×2). The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was quantitated by GC. Thus was obtained 0.057 g (58%) of the title compound.

reactant | N-phenyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine | 0.5 mmol, 0.218 g | C1(=CC=CC=C1)OC(=O)N(C(C(CCCCCC)CC=C)=O)[C@H](C)C1=CC=CC=C1 | C26H33NO3
reactant | LiOMe | 1.0 mmol, 0.38 g | O([Li])C
solvent | methanol | 2 ml | CO | CH4O
product | Methyl 2-allyloctanoate | 0.057 g, 58% | C(C=C)C(C(=O)OC)CCCCCC | C12H22O2
